Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Demerol / Ativan / Bactrim
 
Attending: ___.
 
Chief Complaint:
MRSA Pneumonia
 
Major Surgical or Invasive Procedure:
PICC line placement

 
History of Present Illness:
CC: Direct admit for MRSA  
.  
HPI: ___ y/o F with hx of ARDS and bronchiectasis who presents 
for treatment of MRSA PNA. Patient reports that her health has 
been chronically deteriorating since her MICU admission for ARDS 
in ___, and she has been experiencing multiple bouts of 
pneumonia and bronchitis over the past year requiring 
antibiotics. She also has had multiple spinal surgeries and her 
mobility has subsequently been significantly decreased as well. 
She reports markedly decreased exercise tolerance since ___ 
(used to walk and go shopping without SOB), and her current 
exercise tolerance is so poor she states she will 'feel like 
panting' when she walks from her bed to the bathroom (about 20 
feet).  
.  
Patient also reports a recent PNA in ___, for which she 
received 10 days of antibiotics from her PCP (does not know what 
kind). Following that course, however, she continued to be 
breathless and had a cough productive of green phlegm. A CT from 
chest performed by her pulmonologist Dr. ___ on ___ was 
conssitent with a bronchiectasis flare, revealing mild 
progression of peribronchial infiltrate in the lingula with 
stable areas of bronchiectasis, fibrosis and scarring. She was 
treated with 10 days of cefuroxime, which did not help her 
symptoms, so she underwent a BAL on ___, which ultimately 
revealed a MRSA infection; AFB culture is pending but smear 
negative. She was started on 14 days of doxycycline on ___, but 
became nauseated and experienced more SOB after her first dose. 
She called her pulmonologist, Dr. ___ recommended she be 
electively direct-admitted to ___ for further treatment of 
MRSA pneumonia.  
.  
On admission, patient feels comfortable and is in no respiratory 
distress. Of note, patient wishes to be DNR/DNI on this 
admission due to deterioration of her health status after her 
past MICU admissions.  
.  
Review of systems:  
(+) fevers to 100, chills, sinus congestion and post nasal drip. 
chronic cough productive of non-bloody sputum, currently clear. 
10 lb weeight gain x4 months due to decreased mobility. chronic 
back pain.  
(-) Denies headache. Denied chest pain or tightness, 
palpitations. Denied nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. No hemoptysis. 
 
Past Medical History:
PMH:  
-ARDS [___] s/p lung biopsy in setting of hospitalization 
for spinal fusion [also w/ MRSA wound infection]  
-Bronchiectasis (noted on CT ___  
-Obstructive apnea.  
-Osteoarthritis.  
-Macular degeneration.  
-History of migraines.  
-History of significant anemia that is thought to be due to GI  
losses although this is currently being evaluated.  
-Very mild pharyngeal dysphagia characterized by intermittent 
incomplete epiglottic deflection (video swallow study on 
___  
-Hiatal hernia.  
-Status post spinal fusion  
-SVT s/p ablation  
-Anxiety  
.  
PSH: Notable for cataract surgery, lung biopsy, cholecystectomy, 
appendectomy and exploratory laparotomy. 
 
Social History:
___
Family History:
She has two siblings, none with pulmonary  
disease. Her mother died of a myocardial infarction at age ___.  
Her father died at age ___ after suffering a stroke. 
 
Physical Exam:
On admission: 
VS: 98.2 140/87 82 20 98% on RA  
GA: elderly F AOx3, NAD  
HEENT: PERRLA. MMM. no LAD. no JVD. neck supple.  
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.  
Pulm: bronchial breath sounds in bilateral lower lung fields. no 
wheezing.  
Abd: soft, NT, +BS. no g/rt. neg HSM. neg ___ sign.  
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no rashes  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
DTRs 2+ ___ (biceps, achilles, patellar). sensation intact to LT, 
pain, temperature, vibration, proprioception. cerebellar fxn 
intact (FTN, HTS). gait WNL. uses R hand and gestures in a 
chorea-like fashion while speaking.  
.
On discharge: 
was 99% on RA resting, 86% on room air with ambulation. 
Pulmonary exam was unchanged - coarse bs throughout with fine 
rales, long inspiratory phase. 

 
Pertinent Results:
On admission:

___ 09:30PM BLOOD WBC-9.2 RBC-3.28* Hgb-9.4* Hct-29.6* 
MCV-90 MCH-28.7 MCHC-31.9 RDW-14.0 Plt ___
___ 09:30PM BLOOD Neuts-63.1 ___ Monos-4.6 Eos-7.8* 
Baso-0.6
___ 09:30PM BLOOD ___ PTT-20.2* ___
___ 07:35AM BLOOD Ret Man-2.0*
___ 09:30PM BLOOD Glucose-175* UreaN-13 Creat-0.7 Na-140 
K-4.4 Cl-102 HCO3-26 AnGap-16
___ 09:30PM BLOOD ALT-18 AST-22 LD(LDH)-200 AlkPhos-66 
TotBili-0.2
___ 09:30PM BLOOD Albumin-3.8 Calcium-8.7 Phos-3.7 Mg-2.0 
Iron-13*
___ 09:30PM BLOOD calTIBC-449 VitB12-500 Folate-14.6 
Ferritn-21 TRF-345
___ 05:30AM BLOOD Vanco-19.8
___ 05:42AM BLOOD Vanco-23.0*
. 
Blood cx x2: negative
Urine cx: negative
. 
CXR: 
FINDINGS: Chain sutures and scarring in the right upper lung are 
seen. There 
is volume loss in both lower lungs. An air-fluid level seen 
behind the heart 
consistent with the patient's known hiatal hernia. Posterior 
fixation screws 
are seen projecting over the lumbar spine and posterior plate 
and screws are 
seen projecting over the lower cervical spine. 
  
IMPRESSION: Chronic changes in the lung. No definite new 
infiltrate. 
.
EKG: 
Sinus rhythm. Prior inferior myocardial infarction. Mild 
non-specific 
ST-T wave abnormalities. No previous tracing available for 
comparison.  
.
On discharge: 
___ 05:42AM BLOOD WBC-7.2 RBC-2.91* Hgb-8.3* Hct-26.1* 
MCV-89 MCH-28.3 MCHC-31.7 RDW-13.8 Plt ___
___ 05:30AM BLOOD Glucose-151* UreaN-17 Creat-0.7 Na-138 
K-4.1 Cl-103 HCO3-26 AnGap-___/P: ___ with hx of ARDS, bronchiectasis, multiple PNAs and 
multiple spinal surgeries who presents with shortness of breath 
and admitted for management of recently diagnosed MRSA PNA.  
.  
#Shortness of Breath: Patient was admitted directly at the 
request of her pulmonologist, Dr. ___, for treatment 
of MRSA pneumonia. She had a recent bronchoscopy, which grew 
10k-100,000 organisms/ml. She was started on Vancomycin 1g q12h. 
CXR showed chronic lung changes - no definite new infiltrate. 
The patient remained afebrile during admission without new 
cough. She was seen by respiratory therapy who provided her with 
an acapella valve. Vancomycin level returned high at 23. The 
level was discussed with pharmacy who recommended changing the 
dosing to 750 mg q12h. A PICC line was placed and the patient 
was discharged to complete a 14-day course. Of note, on the day 
of discharge, the patient had ambulatory sats of 86% on RA. She 
was discharged on 2L home oxygen with activity. She reported 
that her shortness of breath was at her baseline for ~ ___ year. 
Other etiologies of the dyspnea including sotalol side effect 
and possible allergic component or ABPA(given periheral 
eosinophilia) were considered - these were deferred to her 
outpatient pulmonologist for further evaluation pending failure 
to improve after treatment of pneumonia. The patient's home 
nebulizers albuterol/ipratropium were continued. She was also 
discharged with a prescription for tessalon perles cough 
suppressant.    
.  
# h/o SVT: The patient reported a history of SVT (s/p ablation) 
and afib (in the setting of back surgery and MRSA pneumonia). 
The patient's PCP, ___ was contacted who verified the 
patient's home doses of sotalol 120 mg BID and atenolol 100 mg 
qday. The issue of significant beta-blockade in a patient with 
bronchiectasis and chronic dyspnea was discussed with the PCP 
and pharmacy. During admission the doses of both medications 
were cut in half without evidence of arrhythmia. However, after 
discussion with her PCP, she was discharged on her home regimen 
and was encouraged to have further discussion with her PCP and ___ 
cardiologist about the most appropriate doses of these 
medications. Sotalol can commonly cause the sensation of dyspnea 
and this was discussed with the patient. 
.  
# OSA: The patient was provided with a CPAP machine by 
respiratory therapy and this was used each night. (home settings 
autoset 8-10 cm H20)  
.  
# Anxiety: Continued xanax and cymbalta  
.  
# Anemia: Hct was stable ___ today. Iron studies were sent 
and showed low ferritin at 21. Ferrous sulfate 325 mg qday was 
started.  
.  
# Migraine Headache: Patient complained of a headache throughout 
the admission. She was treated with Imitrex and dilaudid - both 
home medications per her.  
. 
SubQ heparin was used for DVT prophylaxis. The patient's code 
status was DNR/DNI (CONFIRMED WITH PATIENT). Communication was 
with husband ___ ___.   

 
___ on Admission:
ALPRAZOLAM [XANAX] 0.5 mg PO BID (breakfast and dinner)  
ALPRAZOLAM [XANAX] 1.0 mg PO QHS  
DULOXETINE [CYMBALTA] 60 mg PO BID  
FLUTICASONE - 50 mcg Spray, Suspension - 2 spray nasal daily  
IPRATROPIUM-ALBUTEROL [COMBIVENT] - 18 mcg-103 mcg (90  
mcg)/Actuation Aerosol - 2 puffs four times a day as needed for  

shortness of breath or wheezing  
PANTOPRAZOLE [PROTONIX] 40 mg PO BID  
SOTALOL 120 mg PO BID  

 
Discharge Medications:
1. vancomycin 500 mg Recon Soln Sig: Seven Hundred Fifty (750) 
mg Intravenous Q 12H (Every 12 Hours) for 11 days: Last day is 
___.
Disp:*22 doses* Refills:*0*
2. alprazolam 0.25 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
3. alprazolam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)).  
4. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
5. fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
6. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation every six (6) hours as needed for shortness of breath 
or wheezing.  
7. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
8. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. sotalol 120 mg Tablet Sig: One (1) Tablet PO twice a day.  
10. sumatriptan succinate 50 mg Tablet Sig: Two (2) Tablet PO 
DAILY (Daily) as needed for migraine.  
11. atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.  
12. benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for cough.
Disp:*60 Capsule(s)* Refills:*0*
13. Oxygen therapy
Continuous oxygen 2L nasal cannula for COPD, restrictive lung 
disease, and bronchiectasis

w/ pulse dose for mobility

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
MRSA Pneumonia
Iron-deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring for you at the ___ 
___. You were admitted at the request of your 
pulmonologist to be treated for MRSA pneumonia. We placed a ___ 
line and started Vancomycin. We are also concerned that your 
cardiac medications - especially Sotalol - could be contributing 
to your shortness of breath as it can commonly have this side 
effect. We spoke with Dr. ___ this concern who will 
speak with you about this issue on ___. You should also see 
a cardiologist, whether at ___ or elsewhere. We have included 
the number for cardiology here below. 
. 
We made the following changes to your medications: 
We STARTED ferrous sulfate for low iron levels
We STARTED Vancomycin 750 mg q12h for the next ___ days (last day 
is ___
We STARTED Tessalon Perles to be used as needed for cough
We STARTED oxygen (2L nasal cannula) to be used as needed while 
you are active
. 
Your follow-up information is listed below.
 
Followup Instructions:
___